US07619092B2
In a mixed solvent of 250 ml of toluene and 50 ml of ethanol were dissolved 20 g of ethyl 2-chloroisonicotinate and 20 g of 2-methyl-4-fluorophenylboronic acid, and 5.8 g of palladium tetrakistriphenylphosphine and 250 ml of a 2M aqueous sodium carbonate solution, and the mixture was stirred at 50 to 70° C. for 2 hours. The solution was cooled down to room temperature and extracted by adding ethyl acetate and water. The organic layer was further washed with water, and dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1), to give 24.8 g of 4-ethoxycarbonyl-2-(4-fluoro-2-methylphenyl)pyridine as shown in Table 132 below.

reactant | ethyl 2-chloroisonicotinate | 20 g | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
reactant | 2-methyl-4-fluorophenylboronic acid | 20 g | CC1=C(C=CC(=C1)F)B(O)O | C7H8BFO2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-ethoxycarbonyl-2-(4-fluoro-2-methylphenyl)pyridine | 24.8 g | C(C)OC(=O)C1=CC(=NC=C1)C1=C(C=C(C=C1)F)C | C15H14FNO2
